US07176242B2
Step 2: Methyl 3-amino-4-hydroxy-5-iodobenzoate
To a mixture of methyl 4-hydroxy-3-iodo-5-nitrobenzoate (2.99 g) in ethanol (40 mL) was added tin (II) chloride (10 g) portion wise. After stirring for 1 h at reflux, the mixture was cooled to 0° C. and quenched by saturated potassium carbonate (100 mL). The mixture was filtered through diatomaceous earth and the filtrate was extracted with ethyl acetate (4×100 mL). The combined organic extracts were dried (sodium sulfate), filtered, and concentrated under reduced pressure to give 2.5 g of the title compound: 1H NMR (300 MHz, DMSO-d6) δ 7.50, 7.24, 3.75.

reactant | methyl 4-hydroxy-3-iodo-5-nitrobenzoate | 2.99 g | OC1=C(C=C(C(=O)OC)C=C1[N+](=O)[O-])I | C8H6INO5
reactant | tin (II) chloride | 10 g | [Sn](Cl)Cl
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | Methyl 3-amino-4-hydroxy-5-iodobenzoate | 2.5 g | NC=1C=C(C(=O)OC)C=C(C1O)I | C8H8INO3
